US05593967
Methyl (R)-4-[(2-hydroxy-1-phenylethyl)amino]-4-oxo-2-butenoate (18)
To a solution of monomethyl fumarate (3.0 g, 23 mmol) in ethyl acetate (40 mL) was added 1-hydroxybenzotriazole hydrate (3.0 g, 22 mmol), followed by N,N'-dicyclohexylcarbodiimide (4.5 g, 22 mmol) and the reaction stirred at ambient temperature for 1 hour. The solid was filtered off and discarded. To the filtrate was added (R)-α-phenylglycinol (3.0 g, 22 mmol ) and stirring continued for 20 minutes. The volatiles were removed in vacuo (40° C.) and the residue purified by flash chromatography on normal phase silica gel using hexane: ethyl acetate (1:1) as eluant. Recovered 2.5 g (46%) of (18) as a white solid, m.p. 75°-77° C.; IR (neat) 3250 (OH), 1729 (C=O ester), 1666 (C=O amide), 1640 (C=C)cm-1 ;NMR (CDCl3) δ 7.3-7.4 (5H, m, Ph), 7.0 (1H, d, J 15 Hz, trans alkene), 6.8 (1H, d, J 15 Hz, trans alkene), 6.6 (1H, br d, NH), 5.2 (1H, m, CH), 3.9 (2H, t, J 3 Hz, CH2), 3.8 (3H, s, CH3), 2.3 (1H, t, J 5 Hz, OH); [α]D -53° (CHCl3, 24° C., c=1); anal C13H15NO4 ; requires C 62.64% H 6.07% N 5.62%; found C 62.72% H 5.92% N 5.48%.

reactant | monomethyl fumarate | 23 mmol, 3.0 g | C(\C=C\C(=O)[O-])(=O)OC
reactant | 1-hydroxybenzotriazole hydrate | 22 mmol, 3.0 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N'-dicyclohexylcarbodiimide | 22 mmol, 4.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (R)-α-phenylglycinol | 22 mmol, 3.0 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | Methyl (R)-4-[(2-hydroxy-1-phenylethyl)amino]-4-oxo-2-butenoate | OC[C@@H](C1=CC=CC=C1)NC(C=CC(=O)OC)=O | C13H15NO4
